US06063782
1.10 g (0.0220 mole) of hydrazine hydrate was added to a solution of 4.50 g (0.0191 mole) of methyl 1-butenyl-3-formyl-4,5-dimethylpyrrole-2-carboxylate (cis/trans=24/76) in 47 ml of acetic acid and the resulting mixture was stirred at 100° C. for 2 hours. The reaction mixture cooled to room temperature was poured into ice-water. Precipitated crystals were collected by filtration and washed with water. The crystals thus obtained were dissolved in 300 ml of dichloromethane and the solution was dried over anhydrous sodium sulfate. Distilling off the solvent gave 3.53 g (0.0163 mole) of 1-(2-butenyl)-2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]-pyridazine-7-one (cis/trans=21/79) as pale brown crystals.

reactant | hydrazine hydrate | 0.0220 mole, 1.10 g | O.NN
reactant | methyl 1-butenyl-3-formyl-4,5-dimethylpyrrole-2-carboxylate | 0.0191 mole, 4.50 g | C(=CCC)N1C(=C(C(=C1C)C)C=O)C(=O)OC | C13H17NO3
solvent | acetic acid | 47 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 1-(2-butenyl)-2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]-pyridazine-7-one | 0.0163 mole, 3.53 g | C(C=CC)N1C(=C(C2=C1C(NN=C2)=O)C)C | C12H15N3O
